US06177400B1
Preparation of 4-methyl-2-(4,6,6-trimethyl-1-cyclohexen-1-yl)-1,3-dioxolan
4,6,6-Trimethyl-1-cyclohexen-1-carbaldehyde (2 g, 13 mmole), 1,2-propanediol (4 g, 53 mmole) and p-toluenesulfonic acid (50 mg) were refluxed in 20 ml of toluene, with water separation in a Dean-Stark apparatus, during 6 h. The resulting solution was washed with a NaHCO3 solution and the crude product distilled at a bath temperature of 80°/0.5 hPa, to obtain 1.78 g of the desired product in the form of a mixture of isomers.

reactant | 4,6,6-Trimethyl-1-cyclohexen-1-carbaldehyde | 13 mmole, 2 g | CC1CC=C(C(C1)(C)C)C=O | C10H16O
reactant | 1,2-propanediol | 53 mmole, 4 g | C(C(C)O)O | C3H8O2
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-methyl-2-(4,6,6-trimethyl-1-cyclohexen-1-yl)-1,3-dioxolan | 1.78 g | CC1OC(OC1)C1=CCC(CC1(C)C)C | C13H22O2
